US05543409
In 1,400 ml of ethanol was dissolved 8.41 g of 2-amino-5-[4,5-dihydropyridazin-3(2H)-on-6-yl]indane, and 8.52 g of (+)-camphorsulfonic acid was added to the solution. The resulting salts were recrystallized from ethanol several times to obtain 5.20 g of optically active 2-amino-5-[4,5-dihydropyridazin-3(2H)-on-6-yl]indane·(+)-camphorsulfonate.

reactant | 2-amino-5-[4,5-dihydropyridazin-3(2H)-on-6-yl]indane | 8.41 g | NC1CC2=CC=C(C=C2C1)C=1CCC(NN1)=O | C13H15N3O
reactant | (+)-camphorsulfonic acid | 8.52 g | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | ethanol | 1,400 ml | C(C)O | C2H6O
product | 2-amino-5-[4,5-dihydropyridazin-3(2H)-on-6-yl]indane·(+)-camphorsulfonate | NC1CC2=CC=C(C=C2C1)C=1CCC(NN1)=O.C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)[O-] | InChI=1S/C13H15N3O.C10H16O4S/c14-11-6-8-1-2-9(5-10(8)7-11)12-3-4-13(17)16-15-12;1-9(2)7-3-4-10(9,8(11)5-7)6-15(12,13)14/h1-2,5,11H,3-4,6-7,14H2,(H,16,17);7H,3-6H2,1-2H3,(H,12,13,14)/p-1
